US05942536
N-[2-methyl-3-(2-phthalimidylethyl)-1H-indol-5-yl]-4-fluorobenzamide
To a solution of 5.33 gm (21.7 mMol) 4-(4-fluorobenzoyl)aminophenylhydrazine and 5.03 gm (21.8 mMol) 5-phthalimidyl-2-pentanone in 100 mL ethanol were added 2 mL concentrated hydrochloric acid and the reaction mixture was heated at 80° C. for 14 hours. To the reaction mixture were then added an additional 3 mL concentrated hydrochloric acid and heating continued for an additional 6 hours. The reaction mixture was then cooled to 0° C. and 100 mL hexane were slowly added. The solid which formed was filtered and washed with hexane and provided, after drying, 6.67 gm of the desired compound. The mother liquor was concentrated under reduced pressure and then subjected to silica gel chromatography, eluting with 1:1 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide an additional 0.63 gm of product. Overall yield was 7.3 gm (76%).

reactant | 4-(4-fluorobenzoyl)aminophenylhydrazine | 21.7 mMol, 5.33 gm | FC1=CC=C(C(=O)NC2=CC=C(C=C2)NN)C=C1 | C13H12FN3O
reactant | 5-phthalimidyl-2-pentanone | 21.8 mMol, 5.03 gm | C1(C=2C(C(N1CCCC(C)=O)=O)=CC=CC2)=O | C13H13NO3
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | hexane | 100 mL | CCCCCC | C6H14
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-[2-methyl-3-(2-phthalimidylethyl)-1H-indol-5-yl]-4-fluorobenzamide | 0.63 gm | CC=1NC2=CC=C(C=C2C1CCN1C(C=2C(C1=O)=CC=CC2)=O)NC(C2=CC=C(C=C2)F)=O | C26H20FN3O3
